US05124335
To a stirred mixture of 2-propyl-1H-pyrrolo-[2,3-b]pyridine (29 mg, 0.18 mmol) in DMF (1 mL) was added NaH (6.7 mg of an 80% dispersion in oil, 0.271 mmol). After 20 min, N-triphenylmethyl-5-(4'-bromomethylbiphen-2-yl)tetrazole (111 mg, 0.19 mmol) was added and the mixture was stirred for 30 min. Water was added and the mixture was extracted with EtOAc. Purification by flash chromatography (SiO2, 25% EtOAc/hexanes) gave 2-propyl-1-[[2'-(1-triphenylmethyl-1H-tetrazol-5-yl)[1,1']-biphenyl-4-yl]methyl]-1H-pyrrolo[2,3-b]pyridine as a foam.

reactant | 2-propyl-1H-pyrrolo-[2,3-b]pyridine | 0.18 mmol, 29 mg | C(CC)C1=CC=2C(=NC=CC2)N1 | C10H12N2
reactant | NaH | [H-].[Na+]
reactant | N-triphenylmethyl-5-(4'-bromomethylbiphen-2-yl)tetrazole | 0.19 mmol, 111 mg | C1(=CC=CC=C1)C(N1N=NN=C1C1=CC=CC=C1C1=CC=C(C=C1)CBr)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
reactant | Water | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-propyl-1-[[2'-(1-triphenylmethyl-1H-tetrazol-5-yl)[1,1']-biphenyl-4-yl]methyl]-1H-pyrrolo[2,3-b]pyridine | C(CC)C1=CC=2C(=NC=CC2)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C43H36N6
